US07576122B2
Step B. 1-(5-Fluoro-3-methyl-1-benzothien-2-yl)-2,2-dimethylpropan-1-one
To a solution of 5.20 g 1-(5-fluoro-2-mercaptophenyl)ethanone in 100 mL anhydrous DMF was added 5.47 g 1-bromopinacolone and 10.95 g cesium carbonate. The resulting mixture was stirred at room temperature overnight and then heated at 70° C. for 3 days. After diluting the reaction mixture with ice and water, it was extracted with ether several times. The combined ether extract was washed with 0.05 N NaOH (2×), water (3×), and saturated brine, dried over anhydrous Na2SO4, and evaporated to give the crude product. The latter was purified by SGC using 10˜15% EtOAc in hexanes to give the title compound as an oil. 1H NMR (CDCl3, 500 MHz) 7.77 (dd, JH-H=8.7 Hz, JH-F=4.8 Hz, 1H), 7.49 (dd, JH-H=2.5 Hz, JH-F=9.6 Hz, 1H), 7.24 (ddd, JH-H=2.5 & 8.7 Hz, JH-F=8.7 Hz, 1H), 2.53 (s, 3H), 1.40 (s, 9H). LC-MS: 4.11 min. (m/Z=209.1, 251.1).

reactant | 1-(5-fluoro-2-mercaptophenyl)ethanone | 5.20 g | FC=1C=CC(=C(C1)C(C)=O)S | C8H7FOS
reactant | 1-bromopinacolone | 5.47 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | cesium carbonate | 10.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(5-Fluoro-3-methyl-1-benzothien-2-yl)-2,2-dimethylpropan-1-one | FC=1C=CC2=C(C(=C(S2)C(C(C)(C)C)=O)C)C1 | C14H15FOS
